US08227458B2
a) 4-Chloro-2-chloromethyl-1-nitro-benzene
To a solution of 5-chloro-2-nitrobenzyl alcohol (80 g, 0.42 mol) and triethylamine (64 ml, 0.46 mol) in dichloromethane (840 ml) was added drop wise thionyl chloride (34 ml, 0.46 mol) during a period of 30 min while the internal temperature was kept below 32° C. by cooling with a water bath. The reaction mixture was stirred for 3 h. The solvent was evaporated and the residue was triturated in warm tert-butyl methyl ether (970 ml). The ammonium salts were removed by filtration and the filtrate was concentrated in vacuo to give the title compound (85 g, 99%) as brown oil which was used in the next step without purification. MS m/e: 205 (M+).

reactant | 5-chloro-2-nitrobenzyl alcohol | 0.42 mol, 80 g | ClC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H6ClNO3
reactant | triethylamine | 0.46 mol, 64 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.46 mol, 34 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 840 ml | ClCCl | CH2Cl2
product | 4-Chloro-2-chloromethyl-1-nitro-benzene | 85 g, 99% | ClC1=CC(=C(C=C1)[N+](=O)[O-])CCl | C7H5Cl2NO2
